US08012956B2
6-(4-(tert-Butoxycarbonyl)piperazin-1-yl)nicotinic acid (2.0 g, 6.5 mmol) was taken into DMF (10 mL) followed by addition of HATU (2.48 g, 6.5 mmol), N,N-diisopropylethylamine (2.5 mL, 14.1 mmol) and N,O-dimethylhydroxylamine hydrochloride (652 mg, 6.7 mmol), and the mixture was stirred at room temperature over 12 hours. The resulting solution was partitioned with ethyl acetate and water then the organic phase washed with water (3×), 10% aqueous citric acid (2×) then 0.5M aqueous sodium hydroxide and brine. The organic solution was dried over anhydrous sodium sulfate, filtered and concentrated, then purified by silica gel flash chromatography with ethyl ether as eluent to provide tert-butyl 4-(5-(methoxy(methyl)carbamoyl)pyridin-2-yl)piperazine-1-carboxylate (1.45 g). MS (EI) for C17H26N4O4: 351 (MH+).

reactant | 6-(4-(tert-Butoxycarbonyl)piperazin-1-yl)nicotinic acid | 6.5 mmol, 2.0 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C(=O)O)C=C1 | C15H21N3O4
reactant | HATU | 6.5 mmol, 2.48 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 14.1 mmol, 2.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,O-dimethylhydroxylamine hydrochloride | 6.7 mmol, 652 mg | Cl.CNOC
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-(5-(methoxy(methyl)carbamoyl)pyridin-2-yl)piperazine-1-carboxylate | 1.45 g | CON(C(=O)C=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)C | C17H26N4O4
